US08957093B2
(S)-1-((2′-(2H-tetrazol-5-yl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide
The mixture of (S)-1-((2′-cyano-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide (0.1 g, 0.19 mmol), azidotrimethylsilane 90.05 mL, 0.38 mmol) and dibutylstannanone (0.005 g, 0.019 mmol) in toluene (3 mL) was heated at 110° C. oil bath for 16 hr. The solvent was removed and the residue was purified by preparative-HPLC to obtain the title compound. ESI-MS (m/z): 569 [M+H]+.

reactant | (S)-1-((2′-cyano-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide | 0.19 mmol, 0.1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC(=CC=C1)C(C)C)C)C | C36H35N3O
reactant | azidotrimethylsilane | 0.38 mmol, 90.05 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutylstannanone | 0.019 mmol, 0.005 g | C(CCC)[Sn](=O)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-((2′-(2H-tetrazol-5-yl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide | N=1NN=NC1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC(=CC=C1)C(C)C)C)C | C36H36N6O
